US05231183
(E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)-N-ethyl-3-[4-(3-thienyl)-2-thienylmethyoxy]benzylamine
To 10 ml of tetrahydrofuran were added 1.01 g (2.5 mmol) of (E)-N-(3-chloro-2-propenyl)-N-ethyl-3-[4-(3-thienyl)-2-thienylmethyoxy]benzylamine, 23.8 mg (0.125 mmol) of copper (I) iodide, 8.9 mg (0.05 mmol) of palladium chloride and 26.2 mg (0.1 mmol) of triphenylphosphine, and further, 0.50 ml (5.0 mmol) of n-butylamine and 0.37 ml (3.0 mmol) of tert-butylacetylene under ice cooling. The mixture was stirred for 17 hours at room temperature, and extracted with a mixture of 70 ml of ethyl acetate and 30 ml of water. The organic layer was separated, washed with a mixture of 40 ml of water and 4 ml of 2N hydrochloric acid, a mixture of 40 ml of water and 6 ml of saturated sodium bicarbonate aqueous solution and 20 ml of saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. After ethyl acetate was evaporated under reduced pressure, the residue was treated with 3 ml of methanol, and stirred for 17 hours under ice cooling. The resulting crystals were collected by filtration, washed with 2 ml of methanol and dried under reduced pressure to obtain 0.81 g (yield: 72%) of the above identified compound as slightly yellowish brown crystalline powder.

reactant | (E)-N-(3-chloro-2-propenyl)-N-ethyl-3-[4-(3-thienyl)-2-thienylmethyoxy]benzylamine | 2.5 mmol, 1.01 g | Cl/C=C/CN(CC)CC1=CC(=CC=C1)OCC=1SC=C(C1)C1=CSC=C1 | C21H22ClNOS2
reactant | triphenylphosphine | 0.1 mmol, 26.2 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-butylamine | 5.0 mmol, 0.50 ml | C(CCC)N | C4H11N
reactant | tert-butylacetylene | 3.0 mmol, 0.37 ml | C(C)(C)(C)C#C | C6H10
catalyst | copper (I) iodide | 0.125 mmol, 23.8 mg | [Cu]I
catalyst | palladium chloride | 0.05 mmol, 8.9 mg | [Pd](Cl)Cl
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)-N-ethyl-3-[4-(3-thienyl)-2-thienylmethyoxy]benzylamine | yield: 72% | CC(C#C/C=C/CN(CC)CC1=CC(=CC=C1)OCC=1SC=C(C1)C1=CSC=C1)(C)C | C27H31NOS2
